US07365085B2
c. N-(2-Chloro-3-trifluoromethylbenzyl)-2-(2-methoxyphenyl)propylamine
The titled compound was prepared from N-(2-chloro-3-trifluoromethylbenzyl)-2-(2-methoxyphenyl)propionamide in 28% yield in the same manner as the preparation of N-(2-chloro-3-trifluoromethylbenzyl)-2-(2-chlorophenyl)propylamine in Example 184c. MS (ESI) 358 (MH+).

reactant | N-(2-chloro-3-trifluoromethylbenzyl)-2-(2-methoxyphenyl)propionamide | ClC1=C(CNC(C(C)C2=C(C=CC=C2)OC)=O)C=CC=C1C(F)(F)F | C18H17ClF3NO2
reactant | N-(2-chloro-3-trifluoromethylbenzyl)-2-(2-chlorophenyl)propylamine | ClC1=C(CNCC(C)C2=C(C=CC=C2)Cl)C=CC=C1C(F)(F)F | C17H16Cl2F3N
product | N-(2-Chloro-3-trifluoromethylbenzyl)-2-(2-methoxyphenyl)propylamine | 28% yield | ClC1=C(CNCC(C)C2=C(C=CC=C2)OC)C=CC=C1C(F)(F)F | C18H19ClF3NO
